US05556836
Preparation of β-D-glucopyranosyl nitromethane (2)
50 g of moisture-free D-glucose are dissolved in 200 ml dimethyl sulphoxide and 100 ml methanol. 100 ml nitromethane and a suspension of 30 g sodium methylate in 320 ml methanol are added to the latter and stirring takes place for 24 hours at room temperature. 250 ml n-butanol are added to the reaction mixture and stirred for 1 hour at 0° C. The latter is then filtered and the residue washed with 100 ml isopropanol and 100 ml diethyl ether. After drying, 71 g of a bright yellow powder are obtained. The latter is dissolved in 200 ml water and passed through a column with 100 g of cation exchanger (Aldrich, Amberlyst 15, strongly acid H+ form). The ion exchanger is washed with 500 ml water. The aqueous, red solution is concentrated to 100 ml and heated to 90 ° C. over 30 hours. 2 g of fine activated carbon are added to the hot solution, which is then stirred for 10 minutes, filtered through 5 g kieselguhr and rewashed with 200 ml water.

reactant | D-glucose | 50 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | nitromethane | 100 ml | [N+](=O)([O-])C | CH3NO2
reactant | sodium methylate | 30 g | C[O-].[Na+]
reactant | n-butanol | 250 ml | C(CCC)O | C4H10O
solvent | dimethyl sulphoxide | 200 ml | CS(=O)C | C2H6OS
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 320 ml | CO | CH4O
product | β-D-glucopyranosyl nitromethane | 71 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C[N+](=O)[O-] | C7H13NO7
